US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(5-cyano-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine
In ethanol, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (195 mg), triethylamine (0.2 ml) and sodium acetate (118 mg) were suspended. Cyanogen bromide (114 mg) was added to the resulting suspension, followed by stirring at room temperature for 2 hours. To the residue obtained by concentration of the reaction mixture under reduced pressure, dichloromethane was added. The mixture was washed with water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane:methanol 100:1), whereby the title compound (51 mg, 28%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 195 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CNCCC2S1
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium acetate | 118 mg | C(C)(=O)[O-].[Na+]
reactant | Cyanogen bromide | 114 mg | N#CBr | CBrN
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(5-cyano-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CN(CCC2S1)C#N | C23H21ClN4O3S2
